US04987132
A solution of 490 mg of dicyclohexylcarbodiimide in 5 ml of tetrahydrofuran was added dropwise to a mixture of 500 mg of 2-(3-pyridyl)thiazolidine-4-carboxylic acid, mg of O-benzylhydroxylamine, 480 mg of 1-hydroxybenzotriazole, 240 mg of N-methylmorpholine and 15 ml of tetrahydrofuran with ice cooling, and the resultant mixture was stirred with ice cooling for 1 hour and then at room temperature for 12 hours. The reaction mixture was diluted with 30 ml of ethyl acetate, and the insoluble matter was filtered off. The filtrate was washed in sequence with saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification of the residue by silica gel column chromatography (eluent:ethyl acetate) gave 260 mg of N-benzyloxy-2-(3-pyridyl)thiazolidine-4-carboxamide. This compound was dissolved in ethyl acetate, and 1.5 ml of 2N hydrogen chloride solution in dioxane was added. The resultant solid was collected by filtration, washed with ethyl acetate and dried to give 240 mg of N-benzyloxy-2-(pyridin-3-yl)thiazolidine-4-carboxamide dihydrochloride. Melting point 115° C.

reactant | dicyclohexylcarbodiimide | 490 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 500 mg | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 1-hydroxybenzotriazole | 480 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 240 mg | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-benzyloxy-2-(3-pyridyl)thiazolidine-4-carboxamide | 260 mg | C(C1=CC=CC=C1)ONC(=O)C1NC(SC1)C=1C=NC=CC1 | C16H17N3O2S
